US07241791B2
Step 1: 1-cyclohexyl-7-fluoro-3-(4-methoxyphenyl)-1H-indazole
Prepared according to Method C step A (2,3-difluorophenyl)-(4-methoxyphenyl)-methanone (0.150 g, 0.6 mmol), cyclohexylhydrazine hydrochloride (0.90 g, 0.6 mmol) and DMAP (0.073 g, 0.6 mmol) to give 0.09 g of the title compound.

reactant | (2,3-difluorophenyl)-(4-methoxyphenyl)-methanone | 0.6 mmol, 0.150 g | FC1=C(C=CC=C1F)C(=O)C1=CC=C(C=C1)OC | C14H10F2O2
reactant | cyclohexylhydrazine hydrochloride | 0.6 mmol, 0.90 g | Cl.C1(CCCCC1)NN
catalyst | DMAP | 0.6 mmol, 0.073 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-cyclohexyl-7-fluoro-3-(4-methoxyphenyl)-1H-indazole | 0.09 g | C1(CCCCC1)N1N=C(C2=CC=CC(=C12)F)C1=CC=C(C=C1)OC | C20H21FN2O
